US08912188B2
To a solution of methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (200 mg, 0.95 mmol) in DMSO (5 mL) was added DIEA (245 mg, 1.90 mmol) and pyridin-2-ylmethanamine (124 mg, 1.15 mmol), and the reaction was stirred overnight at 90° C. in an oil bath. The solids were precipitated from water (50 mL), collected by filtration, washed with AcOEt (10 mL), and dried to afford methyl 2-(4-fluorophenyl)-3-[(pyridin-2-ylmethyl)amino]quinoxaline-6-carboxylate as a yellow solid (200 mg, 81%).

reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.95 mmol, 200 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | DIEA | 1.90 mmol, 245 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | pyridin-2-ylmethanamine | 1.15 mmol, 124 mg | N1=C(C=CC=C1)CN | C6H8N2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | methyl 2-(4-fluorophenyl)-3-[(pyridin-2-ylmethyl)amino]quinoxaline-6-carboxylate | 200 mg, 81% | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1NCC1=NC=CC=C1)C(=O)OC | C22H17FN4O2
